US05929098
In a 300 mL, three-necked, round-bottomed flask fitted with a mechanical stirrer, nitrogen inlet and thermometer were placed 5 g (0.03 mole) of 6-amino-5-chloronicotinic acid, 150 mL of tetrahydrofuran and 6.67 g (0.066 mole) of triethylamine. The resulting well-stirred mixture was cooled to -30° C. and 2.24 ml (0.03 mole) of methane sulfonyl chloride were added dropwise keeping the reaction temperature at -30° C. The resulting suspension was stirred at -30° C. during 30 minutes, after which 4.01 g (0.03 mole) of 3-amino-3-methyl-1-pentyne hydrochloride were added slowly over a 20 minute period. After the addition was completed, the reaction mixture was stirred at -30° C. for an additional 30 minutes. The reaction mixture was poured into water and extracted with methylene chloride (3×450 ml). The combined organic phases were washed with water (1×200 ml), and dried over anhydrous magnesium sulfate. The solvent was removed using a rotary evaporator, yielding the crude product. After purification by chromatographic column (silica gel, 1:1 ethyl acetate:hexane), 3.25 g N-(3-methylpent-1-yn-3-yl)-6-amino-5-chloronicotinamide were obtained as a white solid.

reactant | 6-amino-5-chloronicotinic acid | 0.03 mole, 5 g | NC1=NC=C(C(=O)O)C=C1Cl | C6H5ClN2O2
reactant | triethylamine | 0.066 mole, 6.67 g | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 0.03 mole, 2.24 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-amino-3-methyl-1-pentyne hydrochloride | 0.03 mole, 4.01 g | Cl.NC(C#C)(CC)C
solvent | water | O | H2O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | N-(3-methylpent-1-yn-3-yl)-6-amino-5-chloronicotinamide | 3.25 g | CC(C#C)(CC)NC(C1=CN=C(C(=C1)Cl)N)=O | C12H14ClN3O
